US04548932
In 150 ml of N,N-dimethylformamide is dissolved 12.3 g of 3(S)-tert-butoxycarbonylamino-2,3,4,5-tetrahydro-1,5-benzoxazepine-4-one, and 8.7 g of benzyl chloroacetate, 8.7 g of anhydrous potassium carbonate and 1 g of potassium iodide are added to the solution. After stirring for 15 hours, the mixture is poured in ice-cooled water. The deposited material is collected by filtration, washed with water and recrystallized from ethyl acetate-hexane to give 11.7 g of benzyl 3(S)-tert-butoxycarbonylamino-4-oxo-2,3,4,5-tetrahydro-1,5-benzoxazepine-5-acetate as colorless prisms, melting at 122°-124° C.

reactant | 3(S)-tert-butoxycarbonylamino-2,3,4,5-tetrahydro-1,5-benzoxazepine-4-one | 12.3 g | C(C)(C)(C)OC(=O)N[C@H]1COC2=C(NC1=O)C=CC=C2 | C14H18N2O4
reactant | benzyl chloroacetate | 8.7 g | ClCC(=O)OCC1=CC=CC=C1 | C9H9ClO2
reactant | potassium carbonate | 8.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 1 g | [I-].[K+]
solvent | N,N-dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | benzyl 3(S)-tert-butoxycarbonylamino-4-oxo-2,3,4,5-tetrahydro-1,5-benzoxazepine-5-acetate | 11.7 g | C(C)(C)(C)OC(=O)N[C@H]1COC2=C(N(C1=O)CC(=O)OCC1=CC=CC=C1)C=CC=C2 | C23H26N2O6
